US04537890
A solution of 2-(2-cyanoethyl)malonic acid diethyl ester (24.2 g) in tetrahydrofuran (15 ml) was added to a suspension of sodium hydride (2.45 g) in tetrahydrofuran (30 ml) at 20° C. under nitrogen. To this was added 2-chloro-3-nitro-5-bromopyridine (22 g) and the mixture so obtained was heated to 93°-95° C. A small amount of tetrahydrofuran was allowed to distil off. The mixture was heated under reflux for 2.5 hr. The reaction mixture was poured into water and neutralised to pH 7 with concentrated hydrochloric acid. The aqueous phase was extracted with chloroform, dried (MgSO4) decolourised with charcoal and filtered through a silica column. The chloroform eluant was evaporated to yield an oil which slowly crystallised. The crystals were washed in petroleum ether (40°-60° C.) and dried to yield 4-(5-bromo-3-nitropyrid-2-yl)-4,4-bis(carbethoxy)butyronitrile (28 g) m.p. 58°-62° C.

reactant | 2-(2-cyanoethyl)malonic acid diethyl ester | 24.2 g | C(C)OC(C(C(=O)OCC)CCC#N)=O | C10H15NO4
reactant | sodium hydride | 2.45 g | [H-].[Na+]
reactant | 2-chloro-3-nitro-5-bromopyridine | 22 g | ClC1=NC=C(C=C1[N+](=O)[O-])Br | C5H2BrClN2O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(5-bromo-3-nitropyrid-2-yl)-4,4-bis(carbethoxy)butyronitrile | 28 g | BrC=1C=C(C(=NC1)C(CCC#N)(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C15H16BrN3O6
